US08044213B2
To a mixture of 0.066 g of 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester (VI.1c), 0.5 mL of 1M hydrochloric acid, 2 mL of tetrahydrofuran was added 0.060 g of zinc powder. The suspension was stirred at ambient temperature for 2 hours. The solid was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was diluted with 2 mL of saturated sodium bicarbonate, 10 mL of water and extracted three times with 5 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 2-[2-amino-5-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester (VII.1a) as a yellow oil. This material was carried to next step of reaction without further purification.

reactant | 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.066 g | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)CN1CCN(CC1)C)[N+](=O)[O-])C1=CC=CC=C1 | C24H27N5O4S
reactant | hydrochloric acid | 1M, 0.5 mL | Cl | ClH
catalyst | zinc | 0.060 g | [Zn] | Zn
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-[2-amino-5-(4-methyl-piperazin-1-ylmethyl)-phenylamino]-4-phenyl-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)CN1CCN(CC1)C)N)C1=CC=CC=C1 | C24H29N5O2S
